### PR TITLE
feat: add `Std.Trichotomous`

### PR DESCRIPTION
**Pull request by linesthatinterlace**
This PR adds `Std.Tricho r`, a typeclass for relations which identifies them as trichotomous. This is preferred to `Std.Antisymm (¬ r · ·)` in all cases (which it is equivalent to).

### CODE REVIEW

**Comment by wrenna-robson** [comment]
See discussion in https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Std.20Trichotomous/with/546933901

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase e71d0abc7ddb2c9da37e91b88fd2be2a903601c7 --onto efbbb0b230ce95653d25b59c83fd24a51a8bf363`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-24 16:55:35)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase e71d0abc7ddb2c9da37e91b88fd2be2a903601c7 --onto 97d63db52cd2fc3353f8a75f48209de0011f1bd3`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-27 11:10:38)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase e71d0abc7ddb2c9da37e91b88fd2be2a903601c7 --onto 106b0fa661d96fd1fa6ff96e2ee5f55f23f307f2`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-30 14:48:12)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-11-04` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-04 12:13:09)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 36ee331ce2d0cb0cb2603c1dff54dea0fdd23d95 --onto de073706c5446208065c7479211a3737ff99af25`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-14 15:51:48)

File: src/Init/Data/Order/Lemmas.lean [hunk 1]
```diff
@@ -22,10 +22,41 @@ section AxiomaticInstances
 public instance (r : α → α → Prop) [Asymm r] : Irrefl r where
   irrefl a h := Asymm.asymm a a h h
 
-public instance {r : α → α → Prop} [Total r] : Refl r where
+public instance (r : α → α → Prop) [Total r] : Refl r where
   refl a := by simpa using Total.total a a
 
-public instance Total.asymm_of_total_not {r : α → α → Prop} [i : Total (¬ r · ·)] : Asymm r where
```
Comment (datokrat) [inline src/Init/Data/Order/Lemmas.lean:28]: There are backward compatibility reasons why I'd prefer to keep this instance: Many lemmas were previously stated in terms of `Total (¬ r · ·)` and are now stated in terms of `Asymm`. This instance makes sure that things don't break. It doesn't hurt us to have this instance, does it?

File: src/Init/Data/Order/Lemmas.lean [hunk 2]
```diff
@@ -22,10 +22,41 @@ section AxiomaticInstances
...
+
+public def total_of_refl_of_tricho (r : α → α → Prop) [Refl r] [Tricho r] : Total r where
+  total a b := (Tricho.rel_or_eq_or_swap (a := a) (b := b) (r := r)).elim Or.inl <|
+    fun h => h.elim (fun h => h ▸ Or.inl (Refl.refl _)) Or.inr
+
+public def asymm_of_irrefl_of_antisymm (r : α → α → Prop) [Irrefl r] [Antisymm r] : Asymm r where
+  asymm a b h h' := Irrefl.irrefl _ (Antisymm.antisymm a b h h' ▸ h)
+
+public def Total.asymm_of_total_not {r : α → α → Prop} [i : Total (¬ r · ·)] : Asymm r where
   asymm a b h := by cases i.total a b <;> trivial
```
Comment (datokrat) [inline src/Init/Data/Order/Lemmas.lean]: These should all be theorems.

File: src/Init/Data/Order/Lemmas.lean [hunk 3]
```diff
@@ -90,18 +119,30 @@ public theorem lt_iff_le_and_not_ge {α : Type u} [LT α] [LE α] [LawfulOrderLT
     a < b ↔ a ≤ b ∧ ¬ b ≤ a :=
   LawfulOrderLT.lt_iff a b
 
-public theorem not_lt {α : Type u} [LT α] [LE α] [Std.Total (α := α) (· ≤ ·)] [LawfulOrderLT α]
-    {a b : α} : ¬ a < b ↔ b ≤ a := by
-  simp [lt_iff_le_and_not_ge, Classical.not_not, Std.Total.total]
```
Comment (datokrat) [inline src/Init/Data/Order/Lemmas.lean]: This is a well-established lemma, please don't change its name.

File: src/Init/Data/Order/Lemmas.lean [hunk 4]
```diff
@@ -110,8 +151,9 @@ public instance {α : Type u} [LT α] [LE α] [LawfulOrderLT α] :
     intro h h'
     exact h.2.elim h'.1
 
-public instance {α : Type u} [LT α] [LE α] [IsPreorder α] [LawfulOrderLT α] :
-    Std.Irrefl (α := α) (· < ·) := inferInstance
+@[deprecated Asymm.total_not (since := "2025-10-24")]
+public def instIrreflLtOfIsPreorderOfLawfulOrderLT {α : Type u} [LT α] [LE α] [IsPreorder α]
+    [LawfulOrderLT α] : Std.Irrefl (α := α) (· < ·) := inferInstance
```
Comment (datokrat) [inline src/Init/Data/Order/Lemmas.lean]: TODO: make sure this instance still works

File: src/Init/Core.lean [hunk 5]
```diff
@@ -2534,16 +2533,19 @@ class Symm (r : α → α → Prop) : Prop where
...
-holds. -/
+/-- `Irrefl r` means the binary relation `r` is irreflexive, that is, `r x x` never holds. -/
 class Irrefl (r : α → α → Prop) : Prop where
   /-- An irreflexive relation satisfies `¬ r a a`. -/
   irrefl : ∀ a, ¬r a a
 
+/-- `Tricho r` says that `r` is trichotomous, that is, `¬ r a b → ¬ r b a → a = b`. -/
+class Tricho (r : α → α → Prop) : Prop where
+  /-- An trichotomous relation `r` satisfies `¬ r a b → ¬ r b a → a = b`. -/
+  tricho (a b : α) : ¬ r a b → ¬ r b a → a = b
```
Comment (datokrat) [inline src/Init/Core.lean]: Please rename it to `Trichotomous`. While it's longer, the abbreviation isn't as well-established as others.

File: src/Init/Data/Order/Lemmas.lean [hunk 6]
```diff
@@ -22,10 +22,41 @@ section AxiomaticInstances
...
   refl a := by simpa using Total.total a a
 
-public instance Total.asymm_of_total_not {r : α → α → Prop} [i : Total (¬ r · ·)] : Asymm r where
+public instance (r : α → α → Prop) [Asymm r] : Antisymm r where
+  antisymm a b h h' := (Asymm.asymm a b h h').elim
+
+public instance (r : α → α → Prop) [Total r] : Tricho r where
+  tricho a b h h' := by simpa [h, h'] using Total.total (r := r) a b
+
+public theorem Tricho.rel_or_eq_or_swap {r : α → α → Prop} [Tricho r] {a b} :
```
Comment (datokrat) [inline src/Init/Data/Order/Lemmas.lean]: Can we call this `Trichotomous.rel_or_eq_or_rel_swap`? I find it slightly clearer.

File: src/Init/Data/Order/Lemmas.lean [hunk 7]
```diff
@@ -22,10 +22,41 @@ section AxiomaticInstances
...
+
+public theorem tricho_of_rel_or_eq_or_swap {r : α → α → Prop}
+    (h : ∀ {a b}, r a b ∨ a = b ∨ r b a) : Tricho r where
+  tricho _ _ hab hba := (h.resolve_left hab).resolve_right hba
+
+public theorem Total.of_not_swap {r : α → α → Prop} [Total r] {a b} (h : ¬ r a b) : r b a :=
+  (Total.total a b).elim (fun h' => (h h').elim) (·)
+
+public def total_of_of_not_swap {r : α → α → Prop} (h : ∀ {a b}, ¬ r a b → r b a) : Total r where
+  total a b := Classical.byCases (p := r a b) Or.inl (fun hab => Or.inr (h hab))
```
Comment (datokrat) [inline src/Init/Data/Order/Lemmas.lean]: `Total.of_not_swap` sounds like it returns `Total`. I would rather use names like these:

```lean
public theorem Total.rel_of_not_rel_swap {r : α → α → Prop} [Total r] {a b} (h : ¬ r a b) : r b a :=
  (Total.total a b).elim (fun h' => (h h').elim) (·)

public def total_of_not_rel_swap_imp_rel {r : α → α → Prop} (h : ∀ {a b}, ¬ r a b → r b a) : Total r where
  total a b := Classical.byCases (p := r a b) Or.inl (fun hab => Or.inr (h hab))
```

File: src/Init/Data/Char/Lemmas.lean [hunk 8]
```diff
@@ -51,8 +51,8 @@ instance leAntisymm : Std.Antisymm (· ≤ · : Char → Char → Prop) where
   antisymm _ _ := Char.le_antisymm
 
 -- This instance is useful while setting up instances for `String`.
-def notLTAntisymm : Std.Antisymm (¬ · < · : Char → Char → Prop) where
-  antisymm _ _ h₁ h₂ := Char.le_antisymm (by simpa using h₂) (by simpa using h₁)
```
Comment (datokrat) [inline src/Init/Data/Char/Lemmas.lean:59]: Can you keep and deprecate this instance, please? We should minimize the unexpected breakage.

File: src/Init/Data/List/BasicAux.lean [hunk 9]
```diff
@@ -272,8 +272,8 @@ theorem sizeOf_get [SizeOf α] (as : List α) (i : Fin as.length) : sizeOf (as.g
     apply Nat.lt_trans ih
     simp +arith
 
-theorem not_lex_antisymm [DecidableEq α] {r : α → α → Prop} [DecidableRel r]
-    (antisymm : ∀ x y : α, ¬ r x y → ¬ r y x → x = y)
```
Comment (datokrat) [inline src/Init/Data/List/BasicAux.lean:276]: Please keep and deprecate this theorem, too.

File: src/Init/Data/Order/Lemmas.lean [hunk 10]
```diff
@@ -110,8 +151,9 @@ public instance {α : Type u} [LT α] [LE α] [LawfulOrderLT α] :
     intro h h'
     exact h.2.elim h'.1
 
-public instance {α : Type u} [LT α] [LE α] [IsPreorder α] [LawfulOrderLT α] :
-    Std.Irrefl (α := α) (· < ·) := inferInstance
+@[deprecated Asymm.total_not (since := "2025-10-24")]
+public def instIrreflLtOfIsPreorderOfLawfulOrderLT {α : Type u} [LT α] [LE α] [IsPreorder α]
+    [LawfulOrderLT α] : Std.Irrefl (α := α) (· < ·) := inferInstance
```
Comment (datokrat) [inline src/Init/Data/Order/Lemmas.lean]: `Asymm.total_not` seems not to be the right replacement. Did you mean `instIrreflOfAsymm`?

**Comment by datokrat** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/6cc5bd3f9efa1c0f09209fa36923c8b2cac17d7c?parent=e71d0abc7ddb2c9da37e91b88fd2be2a903601c7) for 6cc5bd3f9efa1c0f09209fa36923c8b2cac17d7c against e71d0abc7ddb2c9da37e91b88fd2be2a903601c7 are in! @datokrat

File: src/Init/Data/Order/Lemmas.lean (hunk 10 above)
Comment (wrenna-robson) [reply src/Init/Data/Order/Lemmas.lean]: Yes I think so.

**Comment by wrenna-robson** [comment]
I will address your comments when I can (I have some work things which may take a little time). Bit worried about the performance hit here but maybe restoring those instances will fix that.

File: src/Init/Data/Order/Lemmas.lean (hunk 1 above)
Comment (wrenna-robson) [reply src/Init/Data/Order/Lemmas.lean:28]: I thought we had concluded that instances like this might introduce undesirable loops. Or should I just avoid introducing analogous ones?

Comment (datokrat) [reply src/Init/Data/Order/Lemmas.lean:28]: I agree that these are not good instances per se, and it would be very bad to have the opposite instance because of the loops you rightly pointed out.

But only keeping this one seems like a good compromise to me:
Before I added it, there were lots of instances depending on `Total (¬ r · ·)`. I refactored these to use `Asymm r`.
This instance reduces the breakage induced by said change. (Ideally I'd like to deprecate this instance, but we don't have a good mechanism to do it. When I find time, I'd like to make deprecation warnings for instances possible!)

So in general, yes, these instances are bad, but this particular one has some merit in my opinion.

**Comment by datokrat** [comment]
Yes, I find it quite amazing how hard it can be to predict the performance impact of small changes to the typeclass hierarchy. In this case, I'm especially confused by the `iterators (compiled)` entry: This benchmark does not do any instance synthesis at all. It just runs a compiled program.

Radar (our new speedcenter that is still under development) luckily confirms that at least the specific `iterators (compiled)` slowdown was a fluke: https://radar.lean-lang.org/repos/lean4/commits/6cc5bd3f9efa1c0f09209fa36923c8b2cac17d7c?parent=e71d0abc7ddb2c9da37e91b88fd2be2a903601c7&s=iterators+

**Comment by datokrat** [comment]
Note: I slightly edited the PR description to match our changelog convention (removing the `--` at the top and removing the newline before the second sentence so that "This is preferred to..." is still visible in the changelog. I did not change anything about the wording.

File: src/Init/Data/Order/Lemmas.lean (hunk 1 above)
Comment (wrenna-robson) [reply src/Init/Data/Order/Lemmas.lean:28]: But having removed this as an instance, I no longer get any breakage - I am not sure where the issue is.
I think if we are going to have this as an instance, we should really consider having, say, `Antisymm (¬ r · ·)` leading to `Trichotomous r` as well - surely my refactoring here is similar to the refactoring you did you use Asymm?

File: src/Init/Data/Char/Lemmas.lean (hunk 8 above)
Comment (wrenna-robson) [reply src/Init/Data/Char/Lemmas.lean:59]: I assume you also want this for `Nat`. They still want to be registered as instances, right?

File: src/Init/Data/Order/Lemmas.lean (hunk 1 above)
Comment (datokrat) [reply src/Init/Data/Order/Lemmas.lean:28]: I am not talking about breakage inside the `lean4` repository, but about potential breakage in the repositories of downstream users that relied on the instances that previously "only" required `Total (¬ r · ·)` and now require `Asymm r`. It's always hard to tell how much a feature has been used, but it seems to me like an improvement of our backward compatibility without a real cost.

Good point regarding `Trichotomous`. I think such an instance would be appropriate for the same reason. And I normally wouldn't advocate for either of them, except for the backward compatibility reasons.

File: src/Init/Data/Char/Lemmas.lean (hunk 8 above)
Comment (datokrat) [reply src/Init/Data/Char/Lemmas.lean:59]: Do you mean whether we want a lemma proving `Std.Antisymm (¬ · < · : Nat → Nat → Prop)`? My only concern here was that you were removing a lemma that might be used by a downstream user, so instead of removing it, we should deprecate it.

> I assume you also want this for `Nat`

As far as I can tell, there is no analogous `Nat` instance being removed, or what are you referring to?

> They still want to be registered as instances, right?

`notLTAntisymm` doesn't need to be an instance: The existing instance `Char.instIsLinearOrder` should entail this one and others (at a later point in the import hierarchy). My whole concern here is about reducing the breakage for people that might have used `notLTAntisymm` and other lemmas that are about to be removed.

Comment (wrenna-robson) [reply src/Init/Data/Char/Lemmas.lean:59]: I note that "notLTTotal" is NOT registered as an instance though.

**Comment by wrenna-robson** [comment]
Other than that one question about restoring instances (where I am concerned that taking a divergent approach with Total/Asymm and Antisymm/Trichotomous could lead to confusion down the line) I have acted on your comments, so (accepting that we still have that one question to resolve) I am going to pass this back.

File: src/Init/Data/Char/Lemmas.lean (hunk 8 above)
Comment (datokrat) [reply src/Init/Data/Char/Lemmas.lean:59]: Agreed, but it can also be used by its identifier, right? I might be slow on the uptake, but I don't understand what you want to say or what the significance of it not being an instance is.

Comment (wrenna-robson) [reply src/Init/Data/Char/Lemmas.lean:59]: I suppose what I want to understand is: when you say you want me to keep and deprecate this instance, do you still want me to use the `instance` keyword in that deprecation, or the `def` keyword? I don't really mind: I just don't understand what change you want precisely.

File: src/Init/Data/Order/Lemmas.lean (hunk 1 above)
Comment (wrenna-robson) [reply src/Init/Data/Order/Lemmas.lean:28]: Ah - I thought core had a policy of not caring if downstream stuff was broken (i.e. not making a guarantee of backwards compatibility). I now understand the issue.

Comment (datokrat) [reply src/Init/Data/Order/Lemmas.lean:28]: We try to do our best, but if the benefit is large enough, we allow ourselves to break parts of the library. In this sense, there is no guarantee, even though it is important to us to provide an API that is as stable as possible and to make the migration between Lean versions as comfortable as possible.

File: src/Init/Data/Char/Lemmas.lean (hunk 8 above)
Comment (datokrat) [reply src/Init/Data/Char/Lemmas.lean:59]: `notLTAsymm` should not get the `instance` keyword. I'm only asking to keep it as a `def` (or better `theorem`) around and deprecate it. "Can you keep and deprecate this instance, please?" was perhaps a bit ambiguous; by the term "instance", I just meant this declaration returning an instance of `Antisymm` and not that it should get the `instance` modifier.

Comment (wrenna-robson) [reply src/Init/Data/Char/Lemmas.lean:59]: Right - now I understand. Sorry for the confusion.

**Comment by wrenna-robson** [comment]
Right - apologies for the delay. This is ready for review again I believe.

File: src/Init/Data/Char/Lemmas.lean [hunk 11]
```diff
@@ -51,8 +51,12 @@ instance leAntisymm : Std.Antisymm (· ≤ · : Char → Char → Prop) where
...
+instance ltTrichotomous : Std.Trichotomous (· < · : Char → Char → Prop) where
+  trichotomous _ _ h₁ h₂ := Char.le_antisymm (by simpa using h₂) (by simpa using h₁)
+
+@[deprecated ltTrichotomous (since := "2025-10-27")]
+def notLtAntisymm : Std.Antisymm (¬ · < · : Char → Char → Prop) where
```
Comment (datokrat) [inline src/Init/Data/Char/Lemmas.lean]: It feels like nitpicking, but the old lemma was capitalized slightly differently and the deprecation is less helpful if the names don't match:

```suggestion
def notLTAntisymm : Std.Antisymm (¬ · < · : Char → Char → Prop) where
```

File: src/Init/Data/List/BasicAux.lean [hunk 12]
```diff
@@ -286,20 +286,26 @@ theorem not_lex_antisymm [DecidableEq α] {r : α → α → Prop} [DecidableRel
...
-        simp [not_lex_antisymm antisymm h₁ h₂]
+        simp [lex_trichotomous trichotomous h₁ h₂]
       · exfalso
         by_cases hba : r b a
         · exact h₁ (Lex.rel hba)
-        · exact eq (antisymm _ _ hab hba)
+        · exact eq (trichotomous _ _ hab hba)
+
+@[deprecated lex_trichotomous (since := "2025-10-27")]
+theorem lex_antisymm [DecidableEq α] {r : α → α → Prop} [DecidableRel r]
```
Comment (datokrat) [inline src/Init/Data/List/BasicAux.lean]: I would prefer to keep the original name for this deprecated theorem:

```suggestion
theorem not_lex_antisymm [DecidableEq α] {r : α → α → Prop} [DecidableRel r]
```

File: src/Init/Data/Order/Lemmas.lean [hunk 13]
```diff
@@ -22,17 +22,53 @@ section AxiomaticInstances
...
+  asymm a b h := (i.total a b).resolve_left (· h)
 
 public theorem Asymm.total_not {r : α → α → Prop} [i : Asymm r] : Total (¬ r · ·) where
-  total a b := by
-    apply Classical.byCases (p := r a b) <;> intro hab
-    · exact Or.inr <| i.asymm a b hab
-    · exact Or.inl hab
+  total a b := match Classical.em (r b a) with
+  | .inl hba => .inl <| i.asymm b a hba
+  | .inr hba => .inr hba
```
Comment (datokrat) [inline src/Init/Data/Order/Lemmas.lean]: According to the style guide, this should be indented as follows:

```suggestion
  total a b := match Classical.em (r b a) with
    | .inl hba => .inl <| i.asymm b a hba
    | .inr hba => .inr hba
```

**Comment by datokrat** [comment]
> Right - apologies for the delay. This is ready for review again I believe.

No problem at all (and my review was also a bit delayed).

**Comment by wrenna-robson** [comment]
Right, should be all done.

**Comment by wrenna-robson** [comment]
awaiting-review

File: src/Init/Data/Order/Lemmas.lean (hunk 7 above)
Comment (datokrat) [reply src/Init/Data/Order/Lemmas.lean]: Is it deliberate that `Total.of_not_swap` still exists instead of `Total.rel_of_not_rel_swap`?

**Comment by datokrat** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/fa201738f9a26b4ada3d60c819e9942ec19bd149?reference=e76bbef79b18a7aa130a05d50cb9eca4e9ba2152) for fa201738f9a26b4ada3d60c819e9942ec19bd149 against e76bbef79b18a7aa130a05d50cb9eca4e9ba2152 are in! @datokrat

File: src/Init/Data/Order/Lemmas.lean (hunk 7 above)
Comment (wrenna-robson) [reply src/Init/Data/Order/Lemmas.lean]: No, I think I simply missed this comment.

Comment (wrenna-robson) [reply src/Init/Data/Order/Lemmas.lean]: Sorted.

**Comment by wrenna-robson** [comment]
awaiting-review
